US08614209B2
5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester (0.4 g, 1.52 mmol) was dissolved in formamide (2 mL) and the tube purged with nitrogen and then sealed. The mixture was heated at 170° C. for 20 minutes. The resultant solution was diluted with HCl (1 M) and water and washed with ethyl acetate. The organic phase was evaporated then purified by chromatography on a silica II cartridge, eluting with 2:1 pentane:DCM to neat DCM, to give the side product, 5-oxazol-4-yl-thiophene-3-carboxylic acid methyl ester as white solid (0.049 g). LCMS m/z 251.35 [M+MeCN+H]+ R. T.=3.07 min (Analytical Method 6).

reactant | 5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester | 1.52 mmol, 0.4 g | COC(=O)C1=CSC(=C1)C(CBr)=O | C8H7BrO3S
reactant | formamide | 2 mL | C(=O)N | CH3NO
product | 5-oxazol-4-yl-thiophene-3-carboxylic acid methyl ester | 0.049 g | COC(=O)C1=CSC(=C1)C=1N=COC1 | C9H7NO3S
